US08420632B2
5.3: (S)-2-(4-Methanesulfonylpiperazin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoic acid
In a manner analogous to example 3.7, using 130 mg (0.2 mmol) of methyl (S)-2-(4-methanesulfonyl-piperidin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoate, 120 mg (99%) of (S)-2-(4-methanesulfonylpiperidin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]-propanoic acid are obtained in the form of a white solid.

reactant | methyl (S)-2-(4-methanesulfonyl-piperidin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoate | 0.2 mmol, 130 mg | CS(=O)(=O)C1CCN(CC1)[C@H](C(=O)OC)CNS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C27H33N3O7S2
reactant | (S)-2-(4-methanesulfonylpiperidin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]-propanoic acid | 120 mg | CS(=O)(=O)C1CCN(CC1)[C@H](C(=O)O)CNS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C26H31N3O7S2
product | (S)-2-(4-Methanesulfonylpiperazin-1-yl)-3-[4-(2-methylquinolin-4-ylmethoxy)benzenesulfonylamino]propanoic acid | CS(=O)(=O)N1CCN(CC1)[C@H](C(=O)O)CNS(=O)(=O)C1=CC=C(C=C1)OCC1=CC(=NC2=CC=CC=C12)C | C25H30N4O7S2
